US07981882B2
6-Methoxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine
To a slurry of 6-methoxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine hydrochloride (35.3 g, 0.165 mol, 1 equiv.) and triethylamine (69.1 μL, 0.496 mol, 3 equiv.) in DCM (300 mL) cooled at 0° C. with ice water, add dropwise a solution of trifluoroacetic anhydride (25.7 μL, 0.182 mol, 1.1 equiv.) in DCM (40 mL) over 30 min, but at a rate that maintains the temperature below 10° C. After the addition is complete, warm the reaction mixture to RT and stir until the reaction is complete by TLC (about 2 hr). Wash the solution with water (2×350 mL), and then brine (350 mL), dry (sodium sulfate) filter and concentrate to give the title compound as a yellow oil that solidifies upon standing (44.9 g, 96%). Use the material without further purification in the next step. Prepare an analytical sample utilizing silica gel chromatography, eluting with 40:60 diethyl ether:hexanes.

reactant | 6-methoxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine hydrochloride | 0.165 mol, 35.3 g, 1 equiv. | Cl.COC1=CC=CC=2CCNCCC21
reactant | triethylamine | 0.496 mol, 69.1 μL, 3 equiv. | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.182 mol, 25.7 μL, 1.1 equiv. | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 6-Methoxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | COC1=CC=CC=2CCN(CCC21)C(C(F)(F)F)=O | C13H14F3NO2
